US04228084
400 grams (4 moles) of methyl methacrylate, 4.74 (73 millimoles) grams of KCN and 0.118 gram (250 ppm) of N,N'-diphenylbenzidine in a 1 liter round bottom flask were heated to 90° to 100° C. with passage of air therethrough. Within one further hour there were charged 74 grams (1 mole) of glycidol and thereby the methyl methacrylate-methanol azeotrope withdrawn from the column head via a 1 meter Vigreux column at about 65° C. After 2.5 hours, the reaction was ended, which was shown by the increase of the head temperature. The sump was filtered free of potassium cyanide and washed with a little methyl methacrylate. After distilling off the methyl methacrylate there remained behind 132 grams of glycidyl methacrylate (93% yield). The product can be worked up by distillation for further purification (B.P.10, 71°-75° C.).

reactant | methyl methacrylate | 4 moles, 400 grams | C(C(=C)C)(=O)OC | C5H8O2
reactant | KCN | [C-]#N.[K+]
reactant | glycidol | 1 mole, 74 grams | C1C(O1)CO | C3H6O2
catalyst | N,N'-diphenylbenzidine | 0.118 gram | C1(=CC=CC=C1)NC1=CC=C(C=C1)C1=CC=C(NC2=CC=CC=C2)C=C1 | C24H20N2
product | glycidyl methacrylate | 132 grams, 93% yield | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
